US07868036B2
NNN 2-(1H-imidazol-2-yl)-2-methyl-propionic acid
3.334 g of 2-(1-benzyl-1H-imidazol-2-yl-2-methyl-propionic acid benzyl ester are hydrogenated at 440 psi in ethanol (50 ml) at 50° C. for 24 hours. The catalyst is removed by filtration over Hyflo and the filtrate is concentrated under reduced pressure to provide the title compound which can be used without further purification.

reactant | 1-benzyl-1H-imidazol-2-yl-2-methyl-propionic acid benzyl ester | C(C1=CC=CC=C1)OC(C(C)(C)C=1N(C=CN1)CC1=CC=CC=C1)=O | C21H22N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(1H-imidazol-2-yl)-2-methyl-propionic acid | N1C(=NC=C1)C(C(=O)O)(C)C | C7H10N2O2
